US06897231B2
SYNTHESIS OF 4-{5-[3-(4-FLUOROPHENYL)-1H-INDAZOL-5-YL]-4H-1,2,4-TRIAZOL-3-YL}PHENYLAMINE
To a flask containing 5-[3-(4-fluorophenyl)(1H-indazol-5-yl)]-3-(4-nitrophenyl)-4H-1,2,4-triazole (60 mg) was added ethyl acetate (15 ml). The flask was evacuated and purged with nitrogen. To the flask was added palladium on carbon catalyst (10 mg). The reaction was placed under a hydrogen atmosphere and allowed to stir overnight. The reaction was filtered through celite and the organic layer was concentrated. The product was purified by HPLC to yield the title compound (15 mg, 26% yield). 1H NMR (DMSO-d6) δ 13.5 (s, 1H), 8.65 (s, 1H), 8.1 (d, 1H), 8.05 (t, 2H), 7.77 (d, 2H), 7.7 (d, 1H), 7.4 (t, 2H), 6.7 (d, 2H), ES-MS (m/z) 371 [M+1]+.

reactant | 5-[3-(4-fluorophenyl)(1H-indazol-5-yl)]-3-(4-nitrophenyl)-4H-1,2,4-triazole | 60 mg | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-] | C21H13FN6O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 4-{5-[3-(4-FLUOROPHENYL)-1H-INDAZOL-5-YL]-4H-1,2,4-TRIAZOL-3-YL}PHENYLAMINE | 15 mg, 26% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)C1=CC=C(C=C1)N | C21H15FN6
